US03996374
A solution of 26.5 g. of 3-phenylisoindole-1-carboxylic acid ethyl ester in 600 ml. of dimethylformamide is treated under nitrogen at -10° C. with 0.40 mol. of sodium hydride (17.5 g. of a 55% dispersion in mineral oil) and stirred at the same temperature for 15 minutes. Then, at -10° C. to -5° C. there are added 34.5 g. of 2-diethylaminoethyl chloride hydrochloride. The mixture is stirred for 1 hour at room temperature and subsequently heated for 3 hours at 60° C. The mixture is cooled and poured into 8 liters of ice-water. After the addition of 300 g. of sodium chloride, the oily precipitate is separated by decantation and immediately dissolved in methylene chloride. The solution, shielded from daylight, is washed with a saturated aqueous solution of sodium chloride, dried over sodium sulfate and concentrated to dryness. The resulting oil is dissolved in 200 ml. of ether, treated with 280 ml. of 0.5-N hydrochloric acid and thoroughly shaken. After cooling in an ice-bath, the separated hydrochloride is removed by filtration under suction, washed with water and ether and then dissolved in methylene chloride. The aqueous layer is separated and the methylene chloride solution is dried over sodium sulfate and filtered. After the addition of ether, there is obtained 2-[2-(diethylamino)ethyl]-3-phenylisoindole-1-carboxylic acid ethyl ester hydrochloride; melting point 230°-232° C. (decomposition).

reactant | 3-phenylisoindole-1-carboxylic acid ethyl ester | C(C)OC(=O)C=1NC(=C2C=CC=CC12)C1=CC=CC=C1 | C17H15NO2
reactant | sodium hydride | [H-].[Na+]
reactant | 2-diethylaminoethyl chloride hydrochloride | Cl.C(C)N(CCCl)CC
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 2-[2-(diethylamino)ethyl]-3-phenylisoindole-1-carboxylic acid ethyl ester hydrochloride | Cl.C(C)OC(=O)C=1N(C(=C2C=CC=CC12)C1=CC=CC=C1)CCN(CC)CC | InChI=1S/C23H28N2O2.ClH/c1-4-24(5-2)16-17-25-21(18-12-8-7-9-13-18)19-14-10-11-15-20(19)22(25)23(26)27-6-3;/h7-15H,4-6,16-17H2,1-3H3;1H
